US06992103B2
A mixture of methyl 3-hydroxy-5-(2-oxopyrrolidin-1-yl)benzoate (300 mg, 11.28 mmol) (D41), polystyrene bound triphenylphosphine (1.71 g of loading 1.12 mmol/g, 1.92 mmol), and 4-methoxybutan-1-ol (200 mg, 1.92 mmol) in THF (5 ml) was treated dropwise with diethyl azodicarboxylate (0.302 ml, 1.92 mmol). The mixture was stiffed at room temperature for 6 hrs and then filtered. The resin was washed with THF and the filtrate was concentrated and chromatographed on silica gel (elution with ethyl acetate/hexane) to give methyl 3-(4-methoxybutoxy)-5-(2-oxopyrrolidin-1-yl)benzoate (280 mg).

reactant | methyl 3-hydroxy-5-(2-oxopyrrolidin-1-yl)benzoate | 11.28 mmol, 300 mg | OC=1C=C(C(=O)OC)C=C(C1)N1C(CCC1)=O | C12H13NO4
reactant | triphenylphosphine | 1.92 mmol, 1.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-methoxybutan-1-ol | 1.92 mmol, 200 mg | COCCCCO | C5H12O2
reactant | diethyl azodicarboxylate | 1.92 mmol, 0.302 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | methyl 3-(4-methoxybutoxy)-5-(2-oxopyrrolidin-1-yl)benzoate | 280 mg | COCCCCOC=1C=C(C(=O)OC)C=C(C1)N1C(CCC1)=O | C17H23NO5
